US04618692
3-(o-bromophenyl)-1-hydroxy-1-[2-(bis-(2-chloroethyl)-amino)-2-oxo-tetrahydro-2H-1,3,2-oxazaphosphorin-4-yl]-urea
560 mg (2 mmol) of 4-hydroxycyclophosphamide in 10 ml of acetone were treated with 460 mg of 3-o-bromophenyl-1-hydroxyurea and a catalytic amount of trichloroacetic acid and let to stand at -25° C. After 2 days, the crystals were drawn off by suction and recrystallized from acetone.

reactant | 4-hydroxycyclophosphamide | 2 mmol, 560 mg | C1COP(=O)(NC1O)N(CCCl)CCCl | C7H15Cl2N2O3P
reactant | 3-o-bromophenyl-1-hydroxyurea | 460 mg | BrC1=C(C=CC=C1)NC(NO)=O | C7H7BrN2O2
reactant | trichloroacetic acid | ClC(C(=O)O)(Cl)Cl | C2HCl3O2
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 3-(o-bromophenyl)-1-hydroxy-1-[2-(bis-(2-chloroethyl)-amino)-2-oxo-tetrahydro-2H-1,3,2-oxazaphosphorin-4-yl]-urea | BrC1=C(C=CC=C1)NC(N(C1NP(OCC1)(=O)N(CCCl)CCCl)O)=O | C14H20BrCl2N4O4P
